US04647560
5-Methyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
6.0 g (0.016 mole) of 5-methyl-1'-benzyloxycarbonyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one are hydrogenated in 250 ml of ethanol in the presence of 0.5 g of palladium-on-charcoal at 20° C. After the catalyst has been removed by filtration, the filtrate is concentrated and, after addition of diethyl ether, the residue crystallizes.

reactant | 5-methyl-1'-benzyloxycarbonyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 0.016 mole, 6.0 g | CC1=NC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C(NC2=C1C=CC=C2)=O | C22H23N3O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 5-Methyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | CC1=NC2(CCNCC2)C(NC2=C1C=CC=C2)=O | C14H17N3O
